US04239901
The starting compound is obtained in the following manner: 22.8 g (59 mmoles) of 2-(3-chloro-4-hydraziniumphenyl)propionic acid p-toluenesulphonate and 9.8 g (64 mmoles) of sodium nitromalondialdehyde monohydrate are heated under reflux for 30 minutes in 180 ml of 80% strength ethanol. Concentration is then effected, followed by taking up with sodium bicarbonate and extraction with ether. The aqueous solution is acidified and extracted with ether. Through concentration of the ethereal phase there is obtained, after recrystallisation from ethanol, 2-[3-chloro-4-(4-nitropyrazol-1-yl)phenyl]propionic acid (m.p. 173°-173.5° C.). 5 g (16.9 mmoles) of 2-[3-chloro-4-(4-nitropyrazol-1-yl)phenyl]propionic acid are dissolved in 30 ml of glacial acetic acid, heated to 80° C.; portionwise, 3.8 g of iron powder and then 7 ml of water are added. After one hour, pouring on to ice is effected, followed by extraction with ether. The ether phase is dried, clarified with Tonsil, and concentrated. 2-[3-chloro-4-(4-aminopyrazol-1-yl)phenyl]propionic acid is obtained as oil [RF =0.25 (silica gel; CHCl3 /ethanol 4:1)].

reactant | sodium nitromalondialdehyde monohydrate | 64 mmoles, 9.8 g | C(=C(\C=O)/[N+](=O)[O-])\[O-].O.[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | 2-[3-chloro-4-(4-nitropyrazol-1-yl)phenyl]propionic acid | 16.9 mmoles, 5 g | ClC=1C=C(C=CC1N1N=CC(=C1)[N+](=O)[O-])C(C(=O)O)C | C12H10ClN3O4
reactant | water | 7 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 3.8 g | [Fe] | Fe
product | 2-[3-chloro-4-(4-aminopyrazol-1-yl)phenyl]propionic acid | ClC=1C=C(C=CC1N1N=CC(=C1)N)C(C(=O)O)C | C12H12ClN3O2
